US07122627B2
Pinanediol (2-benzyloxy-1-aminopropyl)boronate·HCl.
Pinanediol (2-benzyloxy-1-chloropropyl)boronate, dissolved (3.85 g, 10.6 mmol)) in THF (60 mL), was added to a solution of LiHMDS (10.6 mmol) in THF at −78° C. The solution was stirred for 1 h at −78° C. and allowed to warm to room temperature. Solvent was evaporated and the residue redissolved in hexanes (120 mL). The solid was filtered and the filtrate recooled to −78° C., and a solution of HCl in 1,4-dioxane (4 N, 8.0 mL) was added. The solution was allowed to warm to room temperature while stirring overnight. The solvent was evaporated to yield 2.55 g (63%) of a brown oil. 1H-NMR (CDCl3) d 8.11 (br s, 3H), 7.35 (m, 5H), 4.57 (m, 2H), 4.32 (m, 1H), 3.16 (br s, 1H), 2.34-1.83 (m, 6H), 1.38 (s, 3H), 1.33 (m, 3H), 1.24 (s, 3H), 0.79 (s, 3H).

reactant | Pinanediol (2-benzyloxy-1-chloropropyl)boronate | C(C1=CC=CC=C1)OC(C(Cl)B(O)O)C.C12(C(CCC(C1(C)C)C2)(C)O)O
reactant | LiHMDS | 10.6 mmol | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 60 mL | C1CCOC1 | C4H8O
product | Pinanediol (2-benzyloxy-1-aminopropyl)boronate·HCl | 2.55 g, 63% | C(C1=CC=CC=C1)OC(C(N)B(O)O)C.C12(C(CCC(C1(C)C)C2)(C)O)O.Cl | InChI=1S/C10H16BNO3.C10H18O2.ClH/c1-8(10(12)11(13)14)15-7-9-5-3-2-4-6-9;1-8(2)7-4-5-9(3,11)10(8,12)6-7;/h2-6,8,10,13-14H,7,12H2,1H3;7,11-12H,4-6H2,1-3H3;1H
